US03982011
B. 4-Cyclopropanecarbonylamino-2-nitrobenzoic acid
6 g (0.033 mol) of 4-amino-2-nitrobenzoic acid were dissolved in a mixture (100 ml) of THF and water (1:1). The solution was adjusted to pH 8.5 with 2 N NaOH and reacted at room temperature with 3.78 g (0.0363 mol) of cyclopropanecarboxylic acid chloride in 25 ml of THF. The pH value of the reaction solution was kept at 8.0 - 8.5 to the end by further addition of 2 N sodium hydroxide solution. After a reaction time of 3.5 hours, the solvent was next distilled off. The residue was diluted with water and the aqueous solution was extracted by shaking once with ethyl acetate and was finally acidified with 2 N HCl to pH 2.0. The oil which precipitated was isolated by extraction with ethyl acetate. After washing and drying the ethyl acetate phase, the solution was concentrated to dryness. The product was crystallized from ethyl acetate/petroleum ether.

reactant | 4-amino-2-nitrobenzoic acid | 0.033 mol, 6 g | NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | cyclopropanecarboxylic acid chloride | 0.0363 mol, 3.78 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-Cyclopropanecarbonylamino-2-nitrobenzoic acid | C1(CC1)C(=O)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H10N2O5
